US09302991B2
<Step-3>:(6-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol
To a stirred solution of methyl 6-(2,2,2-trifluoroethoxy)picolinate (0.40 g, 1.69 mmol, Step-2) in tetrahydrofuran (17 mL) is added slowly lithium aluminum hydride (0.096 g, 2.53 mmol) at 0° C. The resulting mixture is stirred at room temperature for 1 hour. The reaction mixture is carefully quenched with 25% aqueous ammonia solution at 0° C. Then the mixture is diluted with dichloromethane (50 mL) and celite is added to the mixture. After stirring at room temperature for 1 hour, the mixture is filtrated through a pad of celite, and the filtrate is concentrated in vacuo to give 0.32 g (92% yield) of the title compound as a white solid. This material is used for the next reaction (Step-4) without further purification.

reactant | methyl 6-(2,2,2-trifluoroethoxy)picolinate | 1.69 mmol, 0.40 g | FC(COC1=CC=CC(=N1)C(=O)OC)(F)F | C9H8F3NO3
reactant | lithium aluminum hydride | 2.53 mmol, 0.096 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
product | (6-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol | 0.32 g, 92% yield | FC(COC1=CC=CC(=N1)CO)(F)F | C8H8F3NO2
